US07691882B2
3-(3-(4-(2-Furan-2-yl-ethyl)-benzyl)-isoxazol-5-yl)-pyridin-2-ylamine
To an anhydrous tetrahydrofuran (5 mL) solution of 3-ethynyl-pyridin-2-ylamine (33.1 mg, 0.281 mmol) described in Manufacturing Example 1-2-3 was added (4-(2-furan-2-yl-ethyl) phenyl)-acetohydroximoyl chloride (224 mg, 0.85 mmol) described in Manufacturing Example 80-1-7 under nitrogen atmosphere at room temperature. Triethylamine (0.24 mL, 1.7 mmol) was then added dropwise, followed by 1.5 hours of stirring at 60° C. The reaction mixture was partitioned into water and ethyl acetate at room temperature. The organic layer was washed with water and saturated aqueous sodium chloride and dried over anhydrous magnesium sulfate, and the solvent was evaporated under a reduced pressure. The residue was purified by NH silica gel column chromatography (ethyl acetate:heptane=1:9 then 3:7) to obtain the title compound (39.6 mg, 40.8%).

reactant | 3-ethynyl-pyridin-2-ylamine | 0.281 mmol, 33.1 mg | C(#C)C=1C(=NC=CC1)N | C7H6N2
reactant | (4-(2-furan-2-yl-ethyl) phenyl)-acetohydroximoyl chloride | 0.85 mmol, 224 mg | O1C(=CC=C1)CCC1=CC=C(C=C1)CC(=NO)Cl | C14H14ClNO2
reactant | Triethylamine | 1.7 mmol, 0.24 mL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 3-(3-(4-(2-Furan-2-yl-ethyl)-benzyl)-isoxazol-5-yl)-pyridin-2-ylamine | 39.6 mg, 40.8% | O1C(=CC=C1)CCC1=CC=C(CC2=NOC(=C2)C=2C(=NC=CC2)N)C=C1 | C21H19N3O2
